US06610707B1
(2S)-1-[(4-Fluorophenyl)sulfonyl]-2-(3-methyl-1,2,4-oxadiazol-5-yl)piperidine
The title compound was prepared by a similar method to Preparation 6 from N′1-[((2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidylcarbonyl)oxy]ethanimidamide [see Preparation 82] and xylene. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 100:0 changing to 80:20, by volume, hexane:ethyl acetate in 10% increments, to afford (2S)-1-[(4-fluorophenyl)sulfonyl]-2-(3-methyl-1,2,4-oxadiazol-5-yl)piperidine as an oil.

reactant | N′1-[((2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidylcarbonyl)oxy]ethanimidamide | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)ON=C(C)N | C14H18FN3O4S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | (2S)-1-[(4-fluorophenyl)sulfonyl]-2-(3-methyl-1,2,4-oxadiazol-5-yl)piperidine | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C1=NC(=NO1)C | C14H16FN3O3S
